US07902369B2
3) Manufacture of 4-(thiazolo[5,4-b]pyridine-2-yl)-1-(2-chlorophenyl)-5-methyl-1H-[1,2,3]triazole
Under nitrogen atmosphere, 344 mg of 1-(2-chlorophenyl)-4-iodo-5-methyl-[1,2,3]-triazole and 276 mg of thiazolo(5,4-b)pyridine (B. Stanovnik, Synthesis, 1974, 120) were dissolved in 3 ml of DMF. Then, 100 mg of sodium acetate and 103 mg of Herrman catalyst were added, and the mixture was stirred at 140° C. for 8 hours. After diluting the reaction solution with water, the resultant was extracted with chloroform. Organic layer was washed with saturated saline solution, and dried with anhydrous sodium sulfate. The residues obtained by distilling out the solvents were separated and purified by thin-layer silicagel column chromatography (ethyl acete/hexane=1/1) to obtain 30 mg of the above compound as a white solid.

reactant | 1-(2-chlorophenyl)-4-iodo-5-methyl-[1,2,3]-triazole | 344 mg | ClC1=C(C=CC=C1)N1N=NC(=C1C)I | C9H7ClIN3
reactant | thiazolo(5,4-b)pyridine | 276 mg | N1=CSC2=NC=CC=C21 | C6H4N2S
reactant | sodium acetate | 100 mg | C(C)(=O)[O-].[Na+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-(thiazolo[5,4-b]pyridine-2-yl)-1-(2-chlorophenyl)-5-methyl-1H-[1,2,3]triazole | 30 mg | N1=C(SC2=NC=CC=C21)C=2N=NN(C2C)C2=C(C=CC=C2)Cl | C15H10ClN5S
